Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Anterior communicating artery aneurysm 
 
Major Surgical or Invasive Procedure:
___: Cerebral Angiogram for coiling of ACOMM aneurysm 

 
History of Present Illness:
Mr. ___ is a ___ yo M with known ACOMM aneurysm found 
incidentally in syncopal workup who presents for elective 
angiogram for intervention. 
 
Past Medical History:
Colon Ca-Colostomy
HTN
DMII
Hyperlipidemia
Anterior communicating artery aneurysm 
Posterior Inferior Cerebellar Artery Aneurysm
 
Social History:
___
Family History:
Mother: stroke 
Father, sister, brother: cancer
 
Physical Exam:
Upon discharge: 

Gen: WD/WN, comfortable, NAD.

HEENT: 
Pupils:  PERRL       
EOMs: Intact

Extrem: Warm and well-perfused.

Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.

Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 4 to 3mm 
bilaterally. 
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch

Femoral and pedal pulses strong and present bilaterally. 
 
Pertinent Results:
___ INTRACRANIAL COILING: 
  
IMPRESSION:  
1. The previously noted A-comm aneurysm that measures 6.8 mm 
from dome to 
neck and 3.1 mm at the neck is completely obliterated with coils 
compatible with ___ and ___ grade 1.   
2. A proximal left ___ aneurysm was identified that measures 
about 7 mm from dome to neck and 4.3 mm at the neck. 

 
Brief Hospital Course:
Mr. ___ is a ___ yo M who was admitted for elective 
procedure. 

# Anterior Communicating Artery Aneurysm 
On ___ He underwent a cerebral angiogram with coiling of ACOMM 
aneurysm. The procedure was uncomplicated and well tolerated. He 
was monitored in the NIMU post procedure. He was continued on 
aspirin after the procedure, Plavix was stopped as there was no 
stent placement. He remained neurologically intact. He was able 
to tend to his colostomy bag without issue and was able to 
ambulate without dizziness or unsteady gait. 

# Posterior Inferior Cerebellar Artery Aneurysm
Incidentally, a proximal left ___ aneurysm was identified that 
measures about 7 mm from dome to neck and 4.3 mm at the neck. It 
was discussed with the patient that he will need close follow-up 
with Dr. ___ that his case will be presented at the 
___ weekly conference to discuss best approach for 
management. He will need to return for further intervention, and 
the patient is aware and expressed understanding of this plan. 
We discussed that he must be strictly compliant with his blood 
pressure management and avoid strenuous activity. 

 
Medications on Admission:
Plavix 75, Asa 325, glipizide 2,5 mg qd,levothyroxine 50 mcg qd, 
lisinopril-HCTZ 20 mg/12.5 q, metformin 500 mg tab, simvastatin 
20 mg qpm,Vit c 1000 mg qd,Calcium carb 1250 mg tab-2 tabs qd, 
Vit D3 1000 units qd, multivit qd, saline nasal

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN fever or pain  
2.  Bisacodyl 10 mg PO/PR DAILY:PRN constipation  
3.  Docusate Sodium 100 mg PO BID  
4.  Senna 17.2 mg PO QHS  
5.  Hydrochlorothiazide 12.5 mg PO DAILY 
RX *hydrochlorothiazide 12.5 mg 1 tablet(s) by mouth daily Disp 
#*1 Tablet Refills:*0 
6.  Lisinopril 20 mg PO DAILY 
RX *lisinopril 20 mg 1 tablet(s) by mouth daily Disp #*1 Tablet 
Refills:*0 
7.  Simvastatin 20 mg PO QPM 
RX *simvastatin 20 mg 1 tablet(s) by mouth at bedtime Disp #*1 
Tablet Refills:*0 
8.  Ascorbic Acid ___ mg PO DAILY  
9.  Aspirin 325 mg PO DAILY 
RX *aspirin 325 mg 1 tablet(s) by mouth daily Disp #*45 Tablet 
Refills:*0 
10.  Calcium Carbonate 1250 mg PO BID  
11.  Levothyroxine Sodium 50 mcg PO DAILY 
RX *levothyroxine 50 mcg 1 tablet(s) by mouth daily Disp #*1 
Tablet Refills:*0 
12.  Multivitamins 1 TAB PO DAILY  
13.  Vitamin D3 (cholecalciferol (vitamin D3)) 1,000 unit oral 
DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1) Anterior Communicating Aneurysm - s/p coil
2) Posterior Inferior Cerebellar Artery Aneurysm

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Activity
•You may gradually return to your normal activities, but we 
recommend you take it easy for the next ___ hours to avoid 
bleeding from your groin.
•Heavy lifting, running, climbing, or other strenuous exercise 
should be avoided for ten (10) days. This is to prevent bleeding 
from your groin.
•You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
•Do not go swimming or submerge yourself in water for five (5) 
days after your procedure.
•You make take a shower.
Medications
•Resume your normal medications and begin new medications as 
directed.
•It is very important to take the medication your doctor ___ 
prescribe for you to keep your blood thin and slippery. This 
will prevent clots from developing and sticking to the stent.
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
•If you take Metformin (Glucophage) you may start it again 
three (3) days after your procedure.
Care of the Puncture Site
•You will have a small bandage over the site.
•Remove the bandage in 24 hours by soaking it with water and 
gently peeling it off.
•Keep the site clean with soap and water and dry it carefully.
•You may use a band-aid if you wish.

What You ___ Experience:
•Mild tenderness and bruising at the puncture site (groin).
•Soreness in your arms from the intravenous lines.
•The medication may make you bleed or bruise easily.
•Fatigue is very normal.
When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the puncture 
site. 
•Fever greater than 101.5 degrees Fahrenheit
•Constipation
•Blood in your stool or urine
•Nausea and/or vomiting

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
•Sudden numbness or weakness in the face, arm, or leg
•Sudden confusion or trouble speaking or understanding
•Sudden trouble walking, dizziness, or loss of balance or 
coordination
•Sudden severe headaches with no known reason

 
Followup Instructions:
___